US09056859B2
A mixture of methyl(2-chloro-5-methoxy-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)acetate (200 mg, 0.551 mmol), Zn(CN)2 (39 mg, 0.331 mmol) and Pd(PPh3)4 (50 mg, 0.043 mmol) in 10 mL of DMF was heated at 110˜120° C. under N2 overnight. Cooled to ambient temperature and the mixture was poured into brine (50 mL) and extracted with EtOAc (3*50 mL). The combined organic layers were washed with water (50 mL), brine (50 mL), dried over anhydrous Na2SO4 and concentrated. The residue was purified by prep-TLC to give methyl (2-chloro-4-cyano-5-methoxyphenyl)acetate.

reactant | methyl(2-chloro-5-methoxy-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)acetate | 0.551 mmol, 200 mg | COC(CC1=C(C=C(C(=C1)OC)OS(=O)(=O)C(F)(F)F)Cl)=O | C11H10ClF3O6S
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
catalyst | Zn(CN)2 | 0.331 mmol, 39 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.043 mmol, 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl (2-chloro-4-cyano-5-methoxyphenyl)acetate | ClC1=C(C=C(C(=C1)C#N)OC)CC(=O)OC | C11H10ClNO3
